US07432284B2
A solution of (rac)-(1S,8aR)-8a-butyl-6-(methoxymethoxy)-1-propyl-8,8a-dihydrocyclopenta[a]inden-2(1H)-one (92 mg, 0.28 mmol) in methanol (1 mL) was treated with aqueous 2N HCl (0.42 mL, 0.84 mmol). The resulting mixture was stirred and gradually heated to 80° C. over 30 minutes, and then kept at 80° C. for an additional 30 minutes. After cooling, the mixture was diluted with EtOAc and washed with 5% NaHCO3. The aqueous portion was back-extracted with EtOAc. The combined organics were washed with brine, dried over MgSO4, filtered, and concentrated under vacuum. The residue was purified by Biotage™ (Charlottesville, Va.) flash chromatography on a 12S (1.2×7.5 cm) silica gel column, eluting with 5:1 hexane-EtOAc, to give (rac)-(1S,8aR)-8a-butyl-6-hydroxy-1-propyl-8,8a-dihydrocyclopenta[a]inden-2(1H)-one as a white solid.

reactant | (rac)-(1S,8aR)-8a-butyl-6-(methoxymethoxy)-1-propyl-8,8a-dihydrocyclopenta[a]inden-2(1H)-one | 0.28 mmol, 92 mg | C(CCC)[C@@]12C(C=3C=CC(=CC3C1)OCOC)=CC([C@H]2CCC)=O | C21H28O3
reactant | HCl | 0.84 mmol, 2N, 0.42 mL | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (rac)-(1S,8aR)-8a-butyl-6-hydroxy-1-propyl-8,8a-dihydrocyclopenta[a]inden-2(1H)-one | C(CCC)[C@@]12C(C=3C=CC(=CC3C1)O)=CC([C@H]2CCC)=O | C19H24O2
